US04282169
Preparation of 1-Trichloroacetimidoyl-2-Benzoylhydrazine
A mixture of 9.1 g (0.07 mole) benzoylhydrazine and 20 ml (28.5 g, 0.16 mole) methyl 2,2,2-trichloroacetimidate was stirred 16 hours at room temperature. The solid that was left was washed with petroleum ether and dried to give 18.6 g (100% yield) of product (mp 170°-172° C.). A sample recrystallized from ethanol had mp 178°-181° C. The structure was confirmed via infrared and elemental analysis.

reactant | benzoylhydrazine | 0.07 mole, 9.1 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | methyl 2,2,2-trichloroacetimidate | 0.16 mole, 20 ml, 28.5 g | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
product | 1-Trichloroacetimidoyl-2-Benzoylhydrazine | 18.6 g, 100% yield | ClC(C(=N)NNC(C1=CC=CC=C1)=O)(Cl)Cl | C9H8Cl3N3O
